US04443536
A solution of 50 g (0.115 mol) 3-(2-chloro-5-nitroanilino)-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one in dimethylformamide and tetrahydrofuran was reduced with 35 psi hydrogen and Raney nickel catalyst. Removal of the catalyst by filtration and concentration of the filtrate gave 21 g (0.052 mol) light yellow solid 3-(2-chloro-5-aminoanilino-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one. To an acetic acid solution containing 6.9 g (0.017 mol) of this amine and 9.5 g potassium acetate was added, in small portions, 9.5 g (0.019 mol) of the acid chloride B2Cl prepared in Example 2. After stirring overnight, the mixture was concentrated to a third of its volume, poured into a large volume of water and extracted with diethyl ether. The organic layers were washed, dried, concentrated, and crystallized from methanol to give 14 g (0.016 mol) buff-colored solid acetate ester of the desired coupler, mp 115°-116° C. To a solution of this product in dimethylformamide stirred under nitrogen was added an aqueous solution containing 2 g potassium hydroxide. After 15 minutes the mixture was acidified with hydrochloric acid, poured into dilute hydrochloric acid, extracted with diethyl ether, washed, dried, concentrated, and crystallized from methanol to give 9.2 g white crystalline coupler M-28, mp 127°-130° C.

reactant | 3-(2-chloro-5-nitroanilino)-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one | 0.115 mol, 50 g | ClC1=C(NC2=NN(C(C2)=O)C2=C(C=C(C=C2Cl)Cl)Cl)C=C(C=C1)[N+](=O)[O-] | C15H8Cl4N4O3
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 2-chloro-5-aminoanilino-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one | ClC1=C(NC2=NN(C(C2)=O)C2=C(C=C(C=C2Cl)Cl)Cl)C=C(C=C1)N | C15H10Cl4N4O
